US05051413
1.5 g of E-2-amino-5-phosphono-3-pentenoic acid are suspended in 30 ml of sec.-butanol and the suspension is saturated with hydrogen chloride gasfor 4 hours at 75°. After concentration, the residue is dissolved in10 ml of 2-butanol, 10 ml of propylene oxide are added and the precipitate is filtered off. Recrystallisation from water/acetone 1:1 yields E-2-amino-5-phosphono-3-pentenoic acid sec.-butyl ester, m.p. 169°-170°.

reactant | E-2-amino-5-phosphono-3-pentenoic acid | 1.5 g | NC(C(=O)O)\C=C\CP(=O)(O)O | C5H10NO5P
reactant | hydrogen chloride | Cl | ClH
solvent | sec.-butanol | 30 ml | C(C)(CC)O | C4H10O
product | E-2-amino-5-phosphono-3-pentenoic acid sec.-butyl ester | C(C)(CC)OC(C(\C=C\CP(=O)(O)O)N)=O | C9H18NO5P
